US06350749B1
A solution of 5-(2-chlorophenyl)-3-(2-oxopropylthio)-2-cyclohexen-1-one (1.0 g) in xylene (10 ml) was refluxed for 7.5 days and cooled, and the reaction solution was purified with silica gel column chromatography (EtOAc/hexane) to give oil of 6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydrobenzothiophene-4-one (0.07 g).

reactant | 5-(2-chlorophenyl)-3-(2-oxopropylthio)-2-cyclohexen-1-one | 1.0 g | ClC1=C(C=CC=C1)C1CC(=CC(C1)=O)SCC(C)=O | C15H15ClO2S
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(2-chlorophenyl)-3-methyl-4,5,6,7-tetrahydrobenzothiophene-4-one | 0.07 g | ClC1=C(C=CC=C1)C1CC2=C(C(=CS2)C)C(C1)=O | C15H13ClOS
